US07375087B2
3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(2-benzyloxycarbonyl-2-methylpropoxy)phenyl]methyl}-5-isopropyl-1H-pyrazole
To a solution of 4-{[4-(2-benzyloxycarbonyl-2-methylpropoxy)phenyl]methyl}-1,2-dihydro-5-isopropyl-3H-pyrazol-3-one (0.25 g), acetobromo-α-D-glucose (0.48 g) and benzyltri(n-butyl)ammonium chloride (0.18 g) in dichloromethane (5 mL) was added 5 mol/L aqueous sodium hydroxide solution (0.35 mL), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was purified by column chromatography on aminopropylated silica gel (eluent: n-hexane/ethyl acetate=1/1-1/3) to give the title compound (0.28 g).

reactant | 4-{[4-(2-benzyloxycarbonyl-2-methylpropoxy)phenyl]methyl}-1,2-dihydro-5-isopropyl-3H-pyrazol-3-one | 0.25 g | C(C1=CC=CC=C1)OC(=O)C(COC1=CC=C(C=C1)CC=1C(NNC1C(C)C)=O)(C)C | C25H30N2O4
reactant | acetobromo-α-D-glucose | 0.48 g | CC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
reactant | sodium hydroxide | 5 mol/L, 0.35 mL | [OH-].[Na+]
catalyst | benzyltri(n-butyl)ammonium chloride | 0.18 g | [Cl-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(2-benzyloxycarbonyl-2-methylpropoxy)phenyl]methyl}-5-isopropyl-1H-pyrazole | 0.28 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)OCC(C)(C)C(=O)OCC1=CC=CC=C1)C(C)C | C39H48N2O13
